US03952001
The novel intermediate triazole compounds used in the above preparation were prepared as follows. To a solution of 11.8 g. sodium in 350 ml. absolute ethanol was added 52.5 g. 1,2,4-triazole-3-thiol. To the resulting solution was added 84 g. 1-bromo-2-ethoxyethane and the resulting solution refluxed for 3 hours. The cooled reaction mixture was filtered, the filtrate was evaporated under reduced pressure to remove solvent, and the residue was dissolved in ether. The resulting solution was filtered, the filtrate was evaporated to remove solvent and the residue distilled under reduced pressure to give 3-(2-ethoxyethylthio)-1,2,4-triazole, b.p. 137°-145°C./0.3-0.5 mm. Elemental analysis satisfactory.

reactant | triazole | N1N=NC=C1 | C2H3N3
reactant | sodium | [Na] | Na
reactant | 1,2,4-triazole-3-thiol | N1N=C(N=C1)S | C2H3N3S
reactant | 1-bromo-2-ethoxyethane | BrCCOCC | C4H9BrO
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-ethoxyethylthio)-1,2,4-triazole | C(C)OCCSC1=NNC=N1 | C6H11N3OS
